US06846929B2
1,2,2,6,6-Pentamethylpiperidin-4-yl 3-(5-Phenylsulfonylbenzotriazol-2-yl)-5-tert-butyl-4-hydroxyhydrocinnamate
Methyl 3-(5-phenylsulfonylbenzotriazol-2-yl)-5-tert-butyl-4-hydroxyhydrocinnamate (5 g, 0.01 mol), xylenes (18 g, 0.17 mol), 1,2,2,6,6-pentamethyl-4-hydroxypiperidine (2.1 g, 0.012 mol) and dioctyltin oxide (0.5 g, 0.0014 mol) are charged to a reactor and heated to 160° C. while being vigorously stirred. At the end of six hours, any remaining xylene is removed by distillation under vacuum. The crude yellow oil obtained is chromatographed through a pad of silica gel using ethyl aetate as the eluent. The title compound is obtained in a 70% yield as a low melting yellow solid, melting at 45-52° C., whose structure is consistent with 1Hnmr and mass spectrometry.

reactant | Methyl 3-(5-phenylsulfonylbenzotriazol-2-yl)-5-tert-butyl-4-hydroxyhydrocinnamate | 0.01 mol, 5 g | C1(=CC=CC=C1)S(=O)(=O)C1=CC=2C(=NN(N2)C=2C=C(CCC(=O)OC)C=C(C2O)C(C)(C)C)C=C1 | C26H27N3O5S
reactant | 1,2,2,6,6-pentamethyl-4-hydroxypiperidine | 0.012 mol, 2.1 g | CN1C(CC(CC1(C)C)O)(C)C | C10H21NO
reactant | dioctyltin oxide | 0.0014 mol, 0.5 g | C(CCCCCCC)[Sn](CCCCCCCC)=O
product | 1,2,2,6,6-Pentamethylpiperidin-4-yl 3-(5-Phenylsulfonylbenzotriazol-2-yl)-5-tert-butyl-4-hydroxyhydrocinnamate | 70% yield | C1(=CC=CC=C1)S(=O)(=O)C1=CC=2C(=NN(N2)C=2C=C(CCC(=O)OC3CC(N(C(C3)(C)C)C)(C)C)C=C(C2O)C(C)(C)C)C=C1 | C35H44N4O5S
